US09079765B2
a) BMIX I (Glc:STn:BMIX 28:1:1).
The solution was diluted with MeOH (2.7 mL, total volume: 3.2 mL) and the pH value was adjusted to 1 by addition of trifluoroacetic acid. An aqueous solution of HAuCl4 (314 μL, 0.025M) was added. Then, 1N aqueous solution of NaBH4 (157 μL) was added in several portions with rapid shaking. The black suspension formed was shaken for an additional 2 h and the methanolic layer was separated by decantation[2]. The black solid was dissolved in water (700 μL) and purified by centrifugal filtering (AMICON MW 10000, 30 min, 14000 rpm). The process was repeated twice, until the nanoparticles were free of salts and starting materials. The residue in the AMICON filter was dissolved in 500 μL of water and lyophilised to afford 1.0 mg of BMIX I nanoparticles. TEM: average diameter 1.80 nm, 201 gold atoms, 71 chains, MW=63300.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaBH4 | 157 μL | [BH4-].[Na+]
reactant | MeOH | 2.7 mL | CO | CH4O
product | Glc | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
